US05872118
A solution of (E)-2-(3-((tert-butyldimethylsilyl)oxy)-6-fluoro-1-indanylidene) acetamide (1.80 g, 5.6 mmoles) and pyridinium p-toluenesulfonate (0.85 g, 3.4 mmoles, Aldrich) in ethanol (65 mL) was heated at 55°-68° C. for 3.5 hours under a nitrogen atmosphere and evaporated in vacuo. The residue was dissolved in ethyl acetate (150 mL) and washed successively with water (2×150 mL) and brine (150 mL), dried over magnesium sulfate, filtered and evaporated in vacuo. The residue was chromatographed on silica gel eluting with ethyl acetate, gradually increasing the polarity to ethyl acetate: ethanol (95:5). The fractions containing the major spot were combined and evaporated in vacuo, and the residue was dried in a vacuum at 80° C. for 18 hours to give 0.72 g (62%) of (E)-2-(6-fluoro-3-hydroxy-1-indanylidene)acetamide as a white solid, mp 166°-168° C.;

reactant | (E)-2-(3-((tert-butyldimethylsilyl)oxy)-6-fluoro-1-indanylidene) acetamide | 5.6 mmoles, 1.80 g | [Si](C)(C)(C(C)(C)C)OC1C/C(/C2=CC(=CC=C12)F)=C\C(=O)N | C17H24FNO2Si
reactant | pyridinium p-toluenesulfonate | 3.4 mmoles, 0.85 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | ethanol | 65 mL | C(C)O | C2H6O
product | (E)-2-(6-fluoro-3-hydroxy-1-indanylidene)acetamide | 0.72 g, 62% | FC1=CC=C2C(C/C(/C2=C1)=C\C(=O)N)O | C11H10FNO2
